US09326987B2
3-Bromo-1-[(4-nitrophenyl)sulfonyl]-1H-pyrrolo[2,3-c]pyridine
Sodium hydride (60% in mineral oil) (217 mg) was added to a stirred solution of 3-bromo-1H-pyrrolo[2,3-c]pyridine (535 mg) in DMF (5 ml) that had been cooled in an ice bath to 0° C. and placed under nitrogen. The mixture was stirred for 30 min, until hydrogen evolution ceased, and then 4-nitrobenzenesulfonyl chloride (662 mg) was added. The mixture was stirred at 0° C. for 1 hour. The mixture was then warmed to RT and stirred for a further 30 min. The solution was poured into stirring water (10 ml) and rapidly stirred for 15 min. The resulting brown solid was collected by filtration, washed with water and dried in a vacuum oven at 50° C. to give a yellow solid. This crude material was purified by FlashMaster II. The residue was dissolved in DCM:methanol (1:1) and pre adsorbed onto silica. This was added to the top of a 20 g silica SPE cartridge that was subsequently eluted with 0-50% ethyl acetate:cyclohyexane over 40 min. The product-containing fractions were combined and the solvent removed in vacuo to give the title compound, 233 mg as a white solid.

reactant | Sodium hydride | 217 mg | [H-].[Na+]
reactant | 3-bromo-1H-pyrrolo[2,3-c]pyridine | 535 mg | BrC1=CNC2=CN=CC=C21 | C7H5BrN2
reactant | hydrogen | [H][H] | H2
reactant | 4-nitrobenzenesulfonyl chloride | 662 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 3-Bromo-1-[(4-nitrophenyl)sulfonyl]-1H-pyrrolo[2,3-c]pyridine | BrC1=CN(C2=CN=CC=C21)S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-] | C13H8BrN3O4S
